US04983211
3-Hydroxy-5-(3-propionyloxyphenyl)-2-propionyl-4-(carboethoxy)cyclohex-2-en-1-one
To a solution of 26.5 g (0.959 mol) of 3-hydroxy-5-(3-hydroxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one in 200 mL of benzene was added 27.5 g (0.211 mol) of propionic anhydride, 16.7 g (0.211 mol) of pyridine and 2.93 g (0.024 mol) of 4-dimethylaminopyridine. The solution was stirred at ambient temperature for 1 hour and at reflux for 4 hours and cooled to room temperature. The reaction mixture was diluted with 150 mL of diethyl ether and washed with 250 mL of 1N HCl and then with 150 mL of water and dried over Na2SO4. The solvent was removed in vacuo leaving 36.1 g (97 percent of theoretical) of the above named product as a light orange colored oil; Rf -0.49 (silica gel, 50:50 ethyl acetate and 1 percent acetic acid), 1H NMR (CDCl3): δ 0.9-1.4 (m, 9H, --CH2CH3), 2.1-4.3 (m, 10H, ring protons and --CH2CH3), 6.9-7.45 (m, 4H, ArH), 18.2 (b, 1H, OH).

reactant | 3-hydroxy-5-(3-hydroxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one | 0.959 mol, 26.5 g | OC1=CC(CC(C1C(=O)OCC)C1=CC(=CC=C1)O)=O | C15H16O5
reactant | propionic anhydride | 0.211 mol, 27.5 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 0.211 mol, 16.7 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 0.024 mol, 2.93 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Hydroxy-5-(3-propionyloxyphenyl)-2-propionyl-4-(carboethoxy)cyclohex-2-en-1-one | OC1=C(C(CC(C1C(=O)OCC)C1=CC(=CC=C1)OC(CC)=O)=O)C(CC)=O | C21H24O7
